US06518423B1
N,N-Dimethyl-[2-[(pyridin-2-yl)hydroxymethyl]imidazol-1-yl]-sulfonamide
To a solution of 4.37 g of 2-bromopyridine in diethyl ether (40 ml) was added 16.5 ml of a 1.6 M hexane solution of n-butyllithium at −78° C. in a nitrogen atmosphere. After stirring for 30 minutes, a tetrahydrofuran solution (20 ml) of 4.34 g of N,N-dimethyl-2-formylimidazole-1-sulfonamide was added thereto. Then the reaction mixture was brought back to room temperature and distributed into ethyl acetate and an aqueous solution of ammonium chloride. The organic layer was extracted and washed successively with water and a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol) to thereby give 2.02 g of the title compound as a pale yellow oily substance.

reactant | 2-bromopyridine | 4.37 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N-dimethyl-2-formylimidazole-1-sulfonamide | 4.34 g | CN(S(=O)(=O)N1C(=NC=C1)C=O)C | C6H9N3O3S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6 M | CCCCCC | C6H14
product | N,N-Dimethyl-[2-[(pyridin-2-yl)hydroxymethyl]imidazol-1-yl]-sulfonamide | 2.02 g | CN(S(=O)(=O)N1C(=NC=C1)C(O)C1=NC=CC=C1)C | C11H14N4O3S
